US07479493B2
Step C: [5-Bromo-2-(3,4-dichloro-phenoxy)-benzyl]-methyl-carbamic acid tert-butyl ester.
To a solution of [5-bromo-2-(3,4-dichloro-phenoxy)-benzyl]-methyl-amine (4.61 g, 12.8 mmol) in DCM (250 mL) were added Et3N (3.6 mL, 25.8 mmol) and di-tert-butyl dicarbonate (3.44 g, 15.8 mmol). After 1 h, the mixture was diluted with 1 N NaOH and extracted with DCM. The combined organic layers were dried (Na2SO4) and concentrated. The crude material was carried forward without purification (6.35 g, >100%). 1H NMR (CDCl3): 7.47-7.31 (m, 3H), 7.03 (d, J=2.8, 1H), 6.80-6.74 (m, 2H), 4.46-4.32 (m, 2H), 2.93-2.78 (m, 3H), 1.45 (br s, 9H).

reactant | [5-bromo-2-(3,4-dichloro-phenoxy)-benzyl]-methyl-amine | 12.8 mmol, 4.61 g | BrC=1C=CC(=C(CNC)C1)OC1=CC(=C(C=C1)Cl)Cl | C14H12BrCl2NO
reactant | Et3N | 25.8 mmol, 3.6 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 15.8 mmol, 3.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N | [OH-].[Na+]
product | [5-Bromo-2-(3,4-dichloro-phenoxy)-benzyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC1=C(C=CC(=C1)Br)OC1=CC(=C(C=C1)Cl)Cl)=O | C19H20BrCl2NO3
